US04410529
5.0 g (24.6 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are dissolved in 100 ml of absolute tetrahydrofuran by stirring and heating to 60° C. The solution is allowed to cool to room temperature, 4.15 g (29.9 millimoles) of 1-chlorocyclopropanecarboxylic acid chloride are added dropwise and the reaction solution is then stirred for 6 hours at room temperature. It is then concentrated to half its volume and 200 ml of water are added. The precipitate which forms is filtered off, washed with water and recrystallized from methanol, giving 5.5 g (73% of theory) of 6-[p-(1-chlorocyclopropylcarbonylamino)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone as colorless crystals, of melting point 189°-190° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 24.6 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 1-chlorocyclopropanecarboxylic acid chloride | 29.9 millimoles, 4.15 g | ClC1(CC1)C(=O)Cl | C4H4Cl2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-[p-(1-chlorocyclopropylcarbonylamino)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 5.5 g, 73% | ClC1(CC1)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C15H16ClN3O2
